US04886868
(4.1) 4-methallyloxyaniline:
This compound was prepared from para-methallyloxyacetamidobenzene. The latter compound was obtained by a method analogous to that for the preparation of orthoacetamidophenylallyl ether, described in J.A.C.S., 70, page 593 (1948), substituting the allyl bromide with methallyl chloride, and operating in the presence of a catalytic amount of potassium iodide (10% in moles relative to methallyl chloride).

reactant | para-methallyloxyacetamidobenzene | C(C(C)=C)OCC(=O)NC1=CC=CC=C1 | C12H15NO2
reactant | orthoacetamidophenylallyl ether | C(C)(=O)NC1=C(C=CC=C1)C=CCOCC=CC1=C(C=CC=C1)NC(C)=O | C22H24N2O3
reactant | methallyl chloride | C(C(C)=C)Cl | C4H7Cl
reactant | potassium iodide | [I-].[K+]
product | 4-methallyloxyaniline | C(C(C)=C)OC1=CC=C(N)C=C1 | C10H13NO
